US09371319B2
Preparation 139: 5-(6-Bromo-1H-pyrrolo[3,2-c]pyridin-2-yl)oxazole
6-Bromo-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde (Preparation 138, 604 mg 2.68 mmole), TOSMIC (1047 mg, 5.37 mmole) and potassium carbonate (759 mg, 5.5 mmole) in methanol (30 mL) was stirred and heated at 65° C. for 110 minutes. The methanol was evaporated and the residue partitioned between ethyl acetate (50 mL) and water (20 mL). The layers were separated and the organic solution was washed with water and brine and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with ethyl acetate to afford the title compound (561 mg, 79%). 1H-NMR (d6-acetone, 500 MHz): δ 7.02 (d, J=0.95 Hz, 1H), 7.60 (t, J=0.95 Hz, 1H), 7.62 (s, 1H), 8.30 (s, 1H), 8.67 (d, J=0.95 Hz, 1H).

reactant | 6-Bromo-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | 2.68 mmole, 604 mg | BrC1=CC2=C(C=N1)C=C(N2)C=O | C8H5BrN2O
reactant | TOSMIC | 5.37 mmole, 1047 mg | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | potassium carbonate | 5.5 mmole, 759 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 30 mL | CO | CH4O
product | 5-(6-Bromo-1H-pyrrolo[3,2-c]pyridin-2-yl)oxazole | 561 mg, 79% | BrC1=CC2=C(C=N1)C=C(N2)C2=CN=CO2 | C10H6BrN3O
